US07888510B2
Preparation of 2-[4-(2-Hydroxymethyl-phenylamino)-piperidine-1-yl]-N-(1-oxo-indan-5-yl)-acetamide
5 mL 10% sodium hydroxide were added to a suspension of 2-[4-(2-oxo-4H-benzo[d][1,3]oxazin-1-yl)-piperidine-1-yl]-N-(1-oxo-indan-5-yl)-acetamide (25 mg, 0.06 mmols) in 5 mL ethanol. The resulting mixture was heated to 50° C. for 2 hours, cooled, the ethanol was evaporated and the aqueous phase was neutralized and extracted with methylene chloride (2×15 mL). The combined organic extracts were washed with water, dried over sodium sulfate and evaporated to dryness. The crude material was purified via a silica gel column, eluting with ethyl acetate. 15 mg of a white solid were obtained, i.e. a yield of 64%.

reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | 2-[4-(2-oxo-4H-benzo[d][1,3]oxazin-1-yl)-piperidine-1-yl]-N-(1-oxo-indan-5-yl)-acetamide | 0.06 mmols, 25 mg | O=C1OCC2=C(N1C1CCN(CC1)CC(=O)NC=1C=C3CCC(C3=CC1)=O)C=CC=C2 | C24H25N3O4
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-[4-(2-Hydroxymethyl-phenylamino)-piperidine-1-yl]-N-(1-oxo-indan-5-yl)-acetamide | 15 mg, yield of 64% | OCC1=C(C=CC=C1)NC1CCN(CC1)CC(=O)NC=1C=C2CCC(C2=CC1)=O | C23H27N3O3
